US09079919B2
(R)-6-(3,5-dichlorophenyl)-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine
In a manner analogous to that described in Example 19, the cross coupling reaction of (R)-6-bromo-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine (intermediate B6.1) with 3,5-dichlorophenylboronic acid yielded the title compound (58% yield) as a pale yellow solid. MS (ISP): m/z=399.1 [M+H]+.

reactant | (R)-6-bromo-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | BrC=1C=C2C(=CC1)OCC[C@@]21N=C(OCC1(F)F)N | C12H11BrF2N2O2
reactant | 3,5-dichlorophenylboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | (R)-6-(3,5-dichlorophenyl)-5′,5′-difluoro-5′,6′-dihydrospiro[chroman-4,4′-[1,3]oxazin]-2′-amine | 58% yield | ClC=1C=C(C=C(C1)Cl)C=1C=C2C(=CC1)OCC[C@@]21N=C(OCC1(F)F)N | C18H14Cl2F2N2O2
